US06147098
N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-(1,1-dimethylpropyl)guanidine
A solution of N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea (0.78 mmol, 290 mg), tert-amylamine (0.85 mmol, 0.100 ml) and triethylamine (0.85 mmol, 0.119 ml) in acetonitrile (2 ml) was stirred for 25 h at 75° C. followed by work-up as described in EXAMPLE 5, b) to give the title compound (140 mg, 46%) as white crystals. Mp 149-150° C.; EI SP/MS: 366 (M+); 1H-NMR (CDCl3): δ 0.85 (t, 3H),1.35 (s, 6H), 1.75 (q, 2H), 4.65 (br s,1H), 7.70 (br s, 3H), 8.95 ppm (br s, 1H); MA calc for C15H16F6N4. 0.15 H2O: C, 49.37%; H, 4.57%; N, 14.76%. Found: C, 49.72%; H, 4.56%; N, 14.76%.

reactant | N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea | 0.78 mmol, 290 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | tert-amylamine | 0.85 mmol, 0.100 ml | C(C)(C)(CC)N | C5H13N
reactant | triethylamine | 0.85 mmol, 0.119 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-(1,1-dimethylpropyl)guanidine | 140 mg, 46% | C(#N)NC(=NC(CC)(C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H16F6N4
